US06544985B2
8-(2,3-Difluoro-phenyl)-7-dimethylamino-4-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[2-dimethylamino-2′,3′-difluoro-5-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-biphenyl-4-yl]-carbamic acid tert.-butyl ester (Example M7) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (26 mg).

reactant | (RS)-[2-dimethylamino-2′,3′-difluoro-5-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)C1=C(C(=CC=C1)F)F)N(C)C)=O | C36H40F2N6O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2,3-Difluoro-phenyl)-7-dimethylamino-4-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC1=C(C=CC=C1F)C=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NC=C2CO)=O)C1)N(C)C | C26H22F2N6O2
